US05300477
To 8.29 g (26.1 mmol) of crude 4,6-dibromo-5-ethyl-2-phenylpyrimidine was added a mixture of 4 mL of water and 15 mL of concentrated sulfuric acid. The mixture was stirred for 18 h and poured onto 200 g of crushed ice. After the ice had melted the precipitate was collected by filtration and dried under vacuum to afford 7.21 g (99%) of crude 6-bromo-5-ethyl-2-phenyl-4(3H)-pyrimidinone. 1H-NMR (d6-DMSO) δ1.10(3H,t), 2.55(2H,q), 7.55(3H,m), 8.10(2H,m).

reactant | 4,6-dibromo-5-ethyl-2-phenylpyrimidine | 26.1 mmol, 8.29 g | BrC1=NC(=NC(=C1CC)Br)C1=CC=CC=C1 | C12H10Br2N2
reactant | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 4 mL | O | H2O
product | 6-bromo-5-ethyl-2-phenyl-4(3H)-pyrimidinone | 7.21 g, 99% | BrC1=C(C(NC(=N1)C1=CC=CC=C1)=O)CC | C12H11BrN2O
